US06140100
A 250 mL round bottomed flask equipped with a nitrogen inlet and a magnetic stirrer was charged with 3.9 g of 3-(3-hydroxy-3-pentyl)-O-(tert-butyltrimethylsilyl)benzyl alcohol and 25 mL of CH2Cl2. The solution was cooled to 0° C. in an ice bath and was treated with 15 mL of TFA followed by 5 mL of Et3SiH (Aldrich). After 30 min at 0° C. the ice bath was removed and the solution was stirred at RT for 18 h. The solution was concentrated to a viscous liquid. This material was dissolved in ether (60 mL), washed with 5% aqueous NaHCO3 (3×50 mL), dried over anhydrous MgSO4, and concentrated in vacuo. The resulting liquid was dissolved in 10 mL of THF and treated with 63 mL of 1M Bu4NF/THF (Aldrich). After stirring at RT for 18 h, the solution was concentrated and the resulting syrup mixed with 80 mL of water. The mixture was extracted with ether (4×30 mL). The combined extracts were washed with 5% aqueous NaHCO3 (3×50 mL), dried over anhydrous MgSO4, and concentrated to afford a light yellow liquid. Analysis by tlc (SiO2, 9:1 hexane:EtOAc) indicated a major new component at Rf =0.30. The crude product was purified by flash chromatography on silica gel (85:15 hexane:EtOAc) to give 1.84 g (82%) of 3-(3-pentyl)benzyl alcohol as a clear liquid. 1H-NMR: (300 MHz, DMSO-d6) δ 7.21 (t, 1H, J=7.5, aromatic CH), 7.10 (m, 2H, aromatic CH), 6.99 (d, 1H, J=7.4, aromatic CH), 5.12 (t, 1H, J=5.8, OH), 4.46 (d, 2H, J=5.8, ArCH2O), 2.26 (m, 1H, pentyl methine), 1.62 (m, 2H, pentyl CH2), 1.49 (m, 2H, pentyl CH2), 0.69 (t, 6H, J=7.4, pentyl CH3).

reactant | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
reactant | TFA | 15 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | Et3SiH | 5 mL | [SiH](CC)(CC)CC | C6H16Si
reactant | hexane | CCCCCC | C6H14
reactant | EtOAc | CCOC(=O)C | C4H8O2
product | 3-(3-pentyl)benzyl alcohol | 1.84 g, 82% | CCC(CC)C=1C=C(CO)C=CC1 | C12H18O
